US05902882
As in Example 2, 23.2 g of ethyl 4-oxo-azepan-3-carboxylate hydrochloride in 90 ml of ethanol were hydrogenated with a solution of 36.1 mg of the ruthenium catalyst in 10 ml of ethanol under 40 bar hydrogen pressure at 30° C. for 21 hours and at 50° C. for 3 hours. The residue, consisting of about 80% 3R,4R and 20% 3S,4R isomers, was triturated with tetrahydrofuran and ethanol at 50° C. for half an hour and at room temperature for 4 hours. The crystals were filtered off under suction, washed with a small amount of tetrahydrofuran/ethanol and dried to constant weight at 50° C./20 mbar, to yield 13.3 g of enantiomerically pure ethyl (3R,4R)-4-hydroxy-azepan-3-carboxylate hydrochloride in the form of white crystals.

reactant | ethyl 4-oxo-azepan-3-carboxylate hydrochloride | 23.2 g | Cl.O=C1C(CNCCC1)C(=O)OCC
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 90 ml | C(C)O | C2H6O
catalyst | ruthenium | 36.1 mg | [Ru] | Ru
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl (3R,4R)-4-hydroxy-azepan-3-carboxylate hydrochloride | Cl.O[C@H]1[C@@H](CNCCC1)C(=O)OCC | InChI=1S/C9H17NO3.ClH/c1-2-13-9(12)7-6-10-5-3-4-8(7)11;/h7-8,10-11H,2-6H2,1H3;1H/t7-,8-;/m1./s1
